US04661596
1,2,3,4-Tetrahydro-7-(2-quinolinylmethoxy)-1-naphthalenol
To a solution of 0.62 g (16.33 mmol) lithium aluminum hydride in 80 mL tetrahydrofuran under nitrogen at 0° C. is added dropwise with stirring a solution of 5.0 g (16.48 mmol) of 3,4-dihydro-7-(2-quinolinylmethoxy)-1(2H)-naphthalenone over 1 minute. The ice bath is removed and after 1 hour the reaction is worked up according to Micovic and Mihailovic1. The crude product is recrystallized from ethylacetate/hexane and affords 3.1 g (62%) of white crystals, m.p. 113°-115° C.

reactant | lithium aluminum hydride | 16.33 mmol, 0.62 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,4-dihydro-7-(2-quinolinylmethoxy)-1(2H)-naphthalenone | 16.48 mmol, 5.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2CCCC(C2=C1)=O | C20H17NO2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1,2,3,4-Tetrahydro-7-(2-quinolinylmethoxy)-1-naphthalenol | 3.1 g, 62% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2CCCC(C2=C1)O | C20H19NO2
